US04082764
To a solution of 0.29 part of 5-chloro-2-dimethylaminomethyleneaminobenzophenone in 4 volume parts of ethanol are added 0.2 volume part of hydrazine hydrate and 0.06 volume part of glacial acetic acid. The mixture is shaken and kept standing at room temperature for about 30 minutes. The resulting crystals are recovered by filtration and washed with ethanol and then dried, whereby 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline is obtained as colorless needles melting at 185° (softening) to 192° C. This compound is identical with the product obtained in Example 1. Yield: 95%.

reactant | 5-chloro-2-dimethylaminomethyleneaminobenzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N=CN(C)C | C16H15ClN2O
reactant | ethanol | C(C)O | C2H6O
reactant | hydrazine hydrate | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline | Yield: 95% | NN1C=NC2=CC=C(C=C2C1(C1=CC=CC=C1)O)Cl | C14H12ClN3O
